US04720572
Ethyl 4-benzyloxy-3-oxobutyrate
71 ml of ethyl 4-chloro-3-oxobutyrate are reacted with 121.4 g of benzoic acid and 132 ml of triethylamine in 1 l of toluene by the procedure described in Example 4. After removal of the solvent by distillation, the residue is a virtually pure product.

reactant | ethyl 4-chloro-3-oxobutyrate | 71 ml | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | benzoic acid | 121.4 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triethylamine | 132 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-benzyloxy-3-oxobutyrate | C(C1=CC=CC=C1)OCC(CC(=O)OCC)=O | C13H16O4
